US05481032
28.7 g (0.1 mol) of 2,4-dichloro-4',5-difluorobenzophenone are dissolved in 250 g of 10% oleum, and 25 g of 50% hydrogen peroxide solution are added at temperatures up to 30° C. When the metered addition has ended (30 min), the mixture is heated for 8 h at 50° C. and, after cooling, is poured on to 250 g of ice. This mixture is kept for 8 h at 140° C. and 4-fluorophenol is then recovered by steam distillation (7.5 g, 0.0673 mol, 67%, m.p. (DSC) 42.6° C.). 2,4-dichloro-5-fluorobenzoic acid is isolated as described in Example 1 (17.0 g, 0.0813 mol, 81%, m.p. 143°-145° C.). (DSC =differential scanning calorimetry)

reactant | 2,4-dichloro-4',5-difluorobenzophenone | 0.1 mol, 28.7 g | ClC1=C(C(=O)C2=CC=C(C=C2)F)C=C(C(=C1)Cl)F | C13H6Cl2F2O
reactant | hydrogen peroxide | 25 g | OO | H2O2
solvent | oleum | 250 g | OS(=O)(=O)O.O=S(=O)=O
product | 2,4-dichloro-5-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)Cl)F | C7H3Cl2FO2
